US09216173B2
To a solution of methyl methioninate (40.0 g, 245 mmol) in DCM (500 mL) was added dropwise triethylamine (60.6 g, 0.600 mol) and di-tert-butyl dicarbonate (52 g, 0.24 mol) at 0° C. The reaction mixture was allowed to warm to ambient temperature. After 8 hours, the reaction mixture was concentrated under reduced pressure and the residue was purified by chromatography on silica gel to give methyl N-(tert-butoxycarbonyl)methioninate. MS ESI calc'd. for C11H22NO4S [M+H]+ 264. found 264. 1H NMR (400 MHz, CDCl3) δ 5.08 (s, 1H), 4.35-4.34 (m, 1H), 3.68 (s, 3H), 2.46 (t, J=6.6 Hz, 2H), 2.03-1.85 (m, 2H), 1.97 (s, 3H), 1.37 (s, 9H).

reactant | methyl methioninate | 245 mmol, 40.0 g | N[C@@H](CCSC)C(=O)OC | C6H13NO2S
reactant | triethylamine | 0.600 mol, 60.6 g | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 0.24 mol, 52 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 500 mL | C(Cl)Cl | CH2Cl2
product | methyl N-(tert-butoxycarbonyl)methioninate | C(C)(C)(C)OC(=O)N[C@@H](CCSC)C(=O)OC | C11H21NO4S
